US09315521B2
To a mixture of 4-(bromomethyl)-3,5-dichloropyridine (1.0 g, 4.15 mmol) and 5-methyl-2-sulfanylpyrimidin-4-ol (0.38 g, 2.69 mmol) in anhydrous ethanol (25 mL) at 0° C. was added triethylamine (1.67 g, 16.6 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated, water was added, and the mixture was sonicated and then filtered. The solid was washed with water and hexane to provide 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-5-methylpyrimidin-4-ol (0.817 g, 65% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.90 (s, 3H), 4.66 (s, 2H), 7.99 (s 1H), 8.66 (s, 2H); M+302.5.

reactant | 4-(bromomethyl)-3,5-dichloropyridine | 4.15 mmol, 1.0 g | BrCC1=C(C=NC=C1Cl)Cl | C6H4BrCl2N
reactant | 5-methyl-2-sulfanylpyrimidin-4-ol | 2.69 mmol, 0.38 g | CC=1C(=NC(=NC1)S)O | C5H6N2OS
reactant | triethylamine | 16.6 mmol, 1.67 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-5-methylpyrimidin-4-ol | 0.817 g, 65% yield | ClC=1C=NC=C(C1CSC1=NC=C(C(=N1)O)C)Cl | C11H9Cl2N3OS
